US04473085
Preparation And Pyrolysis Of Ethyl 2-(2-Butyl)-3-hydroxy-3-methyl-3-phenylpropionate
The reaction of acetophenone (12 grams, 0.1 mole) with the enolate of ethyl 3-methylvalerate (14.4 grams, 0.1 mole) is carried out in the manner described in Example I. Distillation yields 9.5 grams (36%) of the pure product, b.p. 75°-80° C. (air bath temperature) at 0.05 mm Hg. I.R., N.M.R. and M.S. data confirm the above structure.

reactant | acetophenone | 0.1 mole, 12 grams | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethyl 3-methylvalerate | 0.1 mole, 14.4 grams | CC(CC(=O)OCC)CC | C8H16O2
product | Ethyl 2-(2-Butyl)-3-hydroxy-3-methyl-3-phenylpropionate | 9.5 grams, 36% | CC(CC)C(C(=O)OCC)C(C1=CC=CC=C1)(C)O | C16H24O3
